US05028603
To a solution of 1.1 g of 2-(1-hydroxyethyl)-4-(2-methyl-phenyl)-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine dissolved in 14 ml of pyridine is added 0.63 g of 4-chlorobenzoyl chloride under ice-cooling and then stirred for 2.5 hours. After completion of the reaction, the mixture is concentrated under reduced pressure and the residue is dissolved in 50 ml of chloroform. The solution is washed with 5% aqueous sodium hydrogencarbonate solution and sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering off, the filtrate is concentrated under reduced pressure and the residue is subjected to chromatography on silica gel and eluted with chloroform-methanol (100:1-100:3). The objective fraction is concentrated under reduced pressure to give 0.5 g of 2-(1-(4-chlorobenzoyl)oxyethyl)-4-(2-methylphenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepine as an amorphous powder.

reactant | 2-(1-hydroxyethyl)-4-(2-methyl-phenyl)-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 1.1 g | OC(C)C1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)C | C18H18N4OS
reactant | 4-chlorobenzoyl chloride | 0.63 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1-(4-chlorobenzoyl)oxyethyl)-4-(2-methylphenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepine | 0.5 g | ClC1=CC=C(C(=O)OC(C)C2=CC=3C(=NCC=4N(C3S2)C(=NN4)C)C4=C(C=CC=C4)C)C=C1 | C25H21ClN4O2S
